US07709645B2
2-{6-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrazin-2-yl}-N,N-dimethyl-acetamide (56.6 mg, 0.104 mmol) was dissolved in methanol (0.5 mL) and dimethylformamide (0.5 mL) and 50% w/v aqueous potassium hydroxide (0.2 mL) was added. After 5 hours, the reaction was quenched by addition of acetic acid (0.2 mL). The mixture was carefully poured into saturated sodium bicarbonate and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and dried to a residue which was purified by preparative HPLC to afford 2-{6-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrazin-2-yl}-N,N-dimethyl-acetamide (5.7 mg, 14.1%). 1H-NMR (500 MHz, dimethylsulfoxide-d6) δ 2.74 (s, 3H), 2.90 (s, 3H), 3.78 (s, 3H), 3.96 (s, 2H), 7.01 (dt, J=1, J=7.5 Hz, 1H), 7.11 (br d, J=8 Hz, 1H), 7.28 (dt, J=1.5, J=8.5 Hz, 1H), 7.50 (dd, J=1.5 Hz, J=7.5 Hz, 1H), 7.77 (d, J=2.0 Hz, 1H), 8.21 (d, J=2.5 Hz, 1H), 8.46 (d, J=2.0 Hz, 1H), 8.56 (d, J=2.5 Hz, 1H), 8.62 (d, J=2.5 Hz, 1H). MS: m/z 388 (M+H+).

reactant | 2-{6-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrazin-2-yl}-N,N-dimethyl-acetamide | 0.104 mmol, 56.6 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C2=CN=CC(=N2)CC(=O)N(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C29H27N5O4S
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | potassium hydroxide | 0.2 mL | [OH-].[K+]
solvent | methanol | 0.5 mL | CO | CH4O
product | 2-{6-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrazin-2-yl}-N,N-dimethyl-acetamide | 5.7 mg, 14.1% | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C2=CN=CC(=N2)CC(=O)N(C)C | C22H21N5O2
